US07666878B2
BEMP (182 μL, 0.63 mmol) is added to a stirring solution of (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester prepared as described in U.S. Pat. No. 3,320,268 (80 mg, 0.39 mmol) in DMF (2.4 mL). After 30 minutes, benzyl bromide (75 μL, 0.63 mmol) is added and the reaction stirred for 3 days, before partitioning between water and 1:1 EtOAc/ether. The organic layer is washed with brine then reduced in vacuo. The residue is purified by flash column chromatography (3:1 iso-hexane/EtOAc elution) to furnish (1-benzyl-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester; MH+=295.

reactant | BEMP | 0.63 mmol, 182 μL | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | benzyl bromide | 0.63 mmol, 75 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 2.4 mL | CN(C)C=O | C3H7NO
product | (1-benzyl-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)CC2=CC=CC=C2)C)=O | C18H18N2O2
